US04242518
Using the method described in Example 14(c), 2.05 parts of 3-amino-2-benzoyl-dihydrothiophene, on reaction with 0.66 parts of sulfuryl chloride for one hour at 0° C., give 1.6 parts (77% of theory) of 3-amino-2-benzoyl-thiophene of melting point 100°-102° C.

reactant | 3-amino-2-benzoyl-dihydrothiophene | NC1C(SC=C1)C(C1=CC=CC=C1)=O | C11H11NOS
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 3-amino-2-benzoyl-thiophene | 77% | NC1=C(SC=C1)C(C1=CC=CC=C1)=O | C11H9NOS
